US05064851
Ethyl-5-Amino-1-(4-fluorophenyl)-1H-pyrazole-4-carboxylate
A stirred mixture of 11.38 g (70.0 mmole) of a commercially available sample of 4-fluorophenylhydrazine hydrochloride, 11.84 g (70.0 mmole) of ethyl (ethoxymethylene)cyanoacetate and 9.67 g (70.0 mmole) of potassium carbonate in 100 ml of ethanol was refluxed overnight and then treated with 300 ml of water. The precipitate was filtered and dried in vacuo to furnish 12.87 g (74% yield) of pale yellow crystalline solid. The sample was recrystallized from ethanol m.p. 151-2° C.

reactant | 4-fluorophenylhydrazine hydrochloride | Cl.FC1=CC=C(C=C1)NN
reactant | ethyl (ethoxymethylene)cyanoacetate | 70.0 mmole, 11.84 g | C(C)OC=C(C(=O)OCC)C#N | C8H11NO3
reactant | potassium carbonate | 70.0 mmole, 9.67 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 300 ml | O | H2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | Ethyl-5-Amino-1-(4-fluorophenyl)-1H-pyrazole-4-carboxylate | 12.87 g, 74% yield | C(C)OC(=O)C=1C=NN(C1N)C1=CC=C(C=C1)F | C12H12FN3O2
